* Subcircuit OP470
.subckt OP470 net-_q37-pad3_ net-_d1-pad2_ net-_d5-pad1_ net-_c1-pad1_ net-_d7-pad1_ net-_d3-pad2_ net-_q38-pad3_ net-_q79-pad3_ net-_d13-pad2_ net-_d15-pad1_ net-_c11-pad2_ net-_d11-pad1_ net-_d10-pad1_ net-_q77-pad3_ 
* c:\fossee\esim\library\subcircuitlibrary\op470\op470.cir
.include D.lib
.include PNP.lib
.include NPN.lib
r1  ? net-_c1-pad2_ 10k
c1  net-_c1-pad1_ net-_c1-pad2_ 10n
r5  net-_c1-pad1_ net-_q19-pad2_ 10k
c3  net-_c3-pad1_ net-_c1-pad2_ 10n
r3  net-_c3-pad1_ net-_q19-pad2_ 10k
q1 net-_c1-pad2_ net-_d1-pad2_ net-_q1-pad3_ Q2N2222
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d5 net-_d5-pad1_ net-_d1-pad1_ 1N4148
d2 net-_d1-pad2_ net-_d2-pad2_ 1N4148
d6 net-_d2-pad2_ net-_d5-pad1_ 1N4148
q3 net-_q19-pad2_ net-_d5-pad1_ net-_q1-pad3_ Q2N2222
i1 net-_c11-pad2_ net-_d2-pad2_  dc 10u
q6 net-_q10-pad2_ net-_q10-pad2_ net-_c1-pad1_ Q2N2907A
q10 net-_q10-pad1_ net-_q10-pad2_ net-_c1-pad1_ Q2N2907A
q5 net-_d1-pad2_ net-_q10-pad1_ net-_q10-pad2_ Q2N2907A
q9 net-_d5-pad1_ net-_q10-pad1_ net-_q10-pad2_ Q2N2907A
i5 net-_i5-pad1_ ?  dc 10u
i7 net-_i7-pad1_ net-_c1-pad1_  dc 10u
r7  ? net-_c7-pad1_ 10k
r9  net-_i7-pad1_ net-_c5-pad1_ 10k
q17 net-_c7-pad1_ net-_c1-pad2_ net-_i8-pad2_ Q2N2222
q19 net-_c5-pad1_ net-_q19-pad2_ net-_i8-pad2_ Q2N2222
q12 net-_q10-pad1_ net-_d2-pad2_ net-_q12-pad3_ Q2N2222
q15 net-_i8-pad2_ net-_q12-pad3_ net-_i3-pad2_ Q2N2222
i3 net-_c11-pad2_ net-_i3-pad2_  dc 10u
i8 net-_c11-pad2_ net-_i8-pad2_  dc 10u
q21 net-_q21-pad1_ net-_q21-pad2_ net-_i5-pad1_ Q2N2907A
q27 net-_c11-pad1_ net-_q21-pad2_ net-_i7-pad1_ Q2N2907A
c5  net-_c5-pad1_ net-_c5-pad2_ 10n
c7  net-_c7-pad1_ net-_c7-pad2_ 10n
q23 net-_q21-pad1_ net-_q21-pad1_ net-_c7-pad2_ Q2N2222
q28 net-_c11-pad1_ net-_q21-pad1_ net-_c5-pad2_ Q2N2222
q24 net-_c7-pad2_ net-_c7-pad2_ net-_c11-pad2_ Q2N2222
q29 net-_c5-pad2_ net-_c7-pad2_ net-_c11-pad2_ Q2N2222
r11  net-_q19-pad2_ net-_c9-pad2_ 10k
c9  net-_c11-pad1_ net-_c9-pad2_ 10n
q33 net-_c1-pad1_ ? net-_i11-pad2_ Q2N2222
q35 net-_c11-pad2_ ? net-_i13-pad1_ Q2N2907A
i13 net-_i13-pad1_ net-_c1-pad1_  dc 10u
c11  net-_c11-pad1_ net-_c11-pad2_ 10n
i11 net-_c11-pad2_ net-_i11-pad2_  dc 10u
q37 net-_c1-pad1_ net-_i13-pad1_ net-_q37-pad3_ Q2N2222
q39 net-_c11-pad2_ net-_i11-pad2_ net-_q37-pad3_ Q2N2907A
r13  ? net-_c13-pad2_ 10k
c13  net-_c1-pad1_ net-_c13-pad2_ 10n
r16  net-_c1-pad1_ net-_q43-pad1_ 10k
c14  net-_c14-pad1_ net-_c13-pad2_ 10n
r15  net-_c14-pad1_ net-_q43-pad1_ 10k
q41 net-_c13-pad2_ net-_d10-pad1_ net-_q41-pad3_ Q2N2222
d9 net-_d11-pad2_ net-_d10-pad1_ 1N4148
d11 net-_d11-pad1_ net-_d11-pad2_ 1N4148
d10 net-_d10-pad1_ net-_d10-pad2_ 1N4148
d12 net-_d10-pad2_ net-_d11-pad1_ 1N4148
q43 net-_q43-pad1_ net-_d11-pad1_ net-_q41-pad3_ Q2N2222
i15 net-_c11-pad2_ net-_d10-pad2_  dc 10u
q46 net-_q44-pad3_ net-_q44-pad3_ net-_c1-pad1_ Q2N2907A
q50 net-_q44-pad2_ net-_q44-pad3_ net-_c1-pad1_ Q2N2907A
q44 net-_d10-pad1_ net-_q44-pad2_ net-_q44-pad3_ Q2N2907A
q48 net-_d11-pad1_ net-_q44-pad2_ net-_q44-pad3_ Q2N2907A
i18 net-_i18-pad1_ ?  dc 10u
i21 net-_i21-pad1_ net-_c1-pad1_  dc 10u
r19  ? net-_c18-pad1_ 10k
r21  net-_i21-pad1_ net-_c17-pad1_ 10k
q56 net-_c18-pad1_ net-_c13-pad2_ net-_i22-pad2_ Q2N2222
q59 net-_c17-pad1_ net-_q43-pad1_ net-_i22-pad2_ Q2N2222
q51 net-_q44-pad2_ net-_d10-pad2_ net-_q51-pad3_ Q2N2222
q55 net-_i22-pad2_ net-_q51-pad3_ net-_i17-pad2_ Q2N2222
i17 net-_c11-pad2_ net-_i17-pad2_  dc 10u
i22 net-_c11-pad2_ net-_i22-pad2_  dc 10u
q61 net-_q61-pad1_ net-_q61-pad2_ net-_i18-pad1_ Q2N2907A
q67 net-_c21-pad1_ net-_q61-pad2_ net-_i21-pad1_ Q2N2907A
c17  net-_c17-pad1_ net-_c17-pad2_ 10n
c18  net-_c18-pad1_ net-_c18-pad2_ 10n
q62 net-_q61-pad1_ net-_q61-pad1_ net-_c18-pad2_ Q2N2222
q68 net-_c21-pad1_ net-_q61-pad1_ net-_c17-pad2_ Q2N2222
q63 net-_c18-pad2_ net-_c18-pad2_ net-_c11-pad2_ Q2N2222
q69 net-_c17-pad2_ net-_c18-pad2_ net-_c11-pad2_ Q2N2222
r23  net-_q43-pad1_ net-_c21-pad2_ 10k
c21  net-_c21-pad1_ net-_c21-pad2_ 10n
q73 net-_c1-pad1_ ? net-_i25-pad2_ Q2N2222
q75 net-_c11-pad2_ ? net-_i26-pad1_ Q2N2907A
i26 net-_i26-pad1_ net-_c1-pad1_  dc 10u
c23  net-_c21-pad1_ net-_c11-pad2_ 10n
i25 net-_c11-pad2_ net-_i25-pad2_  dc 10u
q77 net-_c1-pad1_ net-_i26-pad1_ net-_q77-pad3_ Q2N2222
q78 net-_c11-pad2_ net-_i25-pad2_ net-_q77-pad3_ Q2N2907A
r2  ? net-_c2-pad2_ 10k
c2  net-_c1-pad1_ net-_c2-pad2_ 10n
r6  net-_c1-pad1_ net-_q20-pad2_ 10k
c4  net-_c4-pad1_ net-_c2-pad2_ 10n
r4  net-_c4-pad1_ net-_q20-pad2_ 10k
q2 net-_c2-pad2_ net-_d3-pad2_ net-_q2-pad3_ Q2N2222
d3 net-_d3-pad1_ net-_d3-pad2_ 1N4148
d7 net-_d7-pad1_ net-_d3-pad1_ 1N4148
d4 net-_d3-pad2_ net-_d4-pad2_ 1N4148
d8 net-_d4-pad2_ net-_d7-pad1_ 1N4148
q4 net-_q20-pad2_ net-_d7-pad1_ net-_q2-pad3_ Q2N2222
i2 net-_c11-pad2_ net-_d4-pad2_  dc 10u
q8 net-_q11-pad3_ net-_q11-pad3_ net-_c1-pad1_ Q2N2907A
q13 net-_q11-pad2_ net-_q11-pad3_ net-_c1-pad1_ Q2N2907A
q7 net-_d3-pad2_ net-_q11-pad2_ net-_q11-pad3_ Q2N2907A
q11 net-_d7-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2907A
i6 net-_i6-pad1_ ?  dc 10u
i9 net-_i9-pad1_ net-_c1-pad1_  dc 10u
r8  ? net-_c8-pad1_ 10k
r10  net-_i9-pad1_ net-_c6-pad1_ 10k
q18 net-_c8-pad1_ net-_c2-pad2_ net-_i10-pad2_ Q2N2222
q20 net-_c6-pad1_ net-_q20-pad2_ net-_i10-pad2_ Q2N2222
q14 net-_q11-pad2_ net-_d4-pad2_ net-_q14-pad3_ Q2N2222
q16 net-_i10-pad2_ net-_q14-pad3_ net-_i4-pad2_ Q2N2222
i4 net-_c11-pad2_ net-_i4-pad2_  dc 10u
i10 net-_c11-pad2_ net-_i10-pad2_  dc 10u
q22 net-_q22-pad1_ net-_q22-pad2_ net-_i6-pad1_ Q2N2907A
q30 net-_c10-pad1_ net-_q22-pad2_ net-_i9-pad1_ Q2N2907A
c6  net-_c6-pad1_ net-_c6-pad2_ 10n
c8  net-_c8-pad1_ net-_c8-pad2_ 10n
q25 net-_q22-pad1_ net-_q22-pad1_ net-_c8-pad2_ Q2N2222
q31 net-_c10-pad1_ net-_q22-pad1_ net-_c6-pad2_ Q2N2222
q26 net-_c8-pad2_ net-_c8-pad2_ net-_c11-pad2_ Q2N2222
q32 net-_c6-pad2_ net-_c8-pad2_ net-_c11-pad2_ Q2N2222
r12  net-_q20-pad2_ net-_c10-pad2_ 10k
c10  net-_c10-pad1_ net-_c10-pad2_ 10n
q34 net-_c1-pad1_ ? net-_i12-pad2_ Q2N2222
q36 net-_c11-pad2_ ? net-_i14-pad1_ Q2N2907A
i14 net-_i14-pad1_ net-_c1-pad1_  dc 10u
c12  net-_c10-pad1_ net-_c11-pad2_ 10n
i12 net-_c11-pad2_ net-_i12-pad2_  dc 10u
q38 net-_c1-pad1_ net-_i14-pad1_ net-_q38-pad3_ Q2N2222
q40 net-_c11-pad2_ net-_i12-pad2_ net-_q38-pad3_ Q2N2907A
r14  ? net-_c15-pad2_ 10k
c15  net-_c1-pad1_ net-_c15-pad2_ 10n
r18  net-_c1-pad1_ net-_q45-pad1_ 10k
c16  net-_c16-pad1_ net-_c15-pad2_ 10n
r17  net-_c16-pad1_ net-_q45-pad1_ 10k
q42 net-_c15-pad2_ net-_d13-pad2_ net-_q42-pad3_ Q2N2222
d13 net-_d13-pad1_ net-_d13-pad2_ 1N4148
d15 net-_d15-pad1_ net-_d13-pad1_ 1N4148
d14 net-_d13-pad2_ net-_d14-pad2_ 1N4148
d16 net-_d14-pad2_ net-_d15-pad1_ 1N4148
q45 net-_q45-pad1_ net-_d15-pad1_ net-_q42-pad3_ Q2N2222
i16 net-_c11-pad2_ net-_d14-pad2_  dc 10u
q49 net-_q47-pad3_ net-_q47-pad3_ net-_c1-pad1_ Q2N2907A
q53 net-_q47-pad2_ net-_q47-pad3_ net-_c1-pad1_ Q2N2907A
q47 net-_d13-pad2_ net-_q47-pad2_ net-_q47-pad3_ Q2N2907A
q52 net-_d15-pad1_ net-_q47-pad2_ net-_q47-pad3_ Q2N2907A
i20 net-_i20-pad1_ ?  dc 10u
i23 net-_i23-pad1_ net-_c1-pad1_  dc 10u
r20  ? net-_c20-pad1_ 10k
r22  net-_i23-pad1_ net-_c19-pad1_ 10k
q58 net-_c20-pad1_ net-_c15-pad2_ net-_i24-pad2_ Q2N2222
q60 net-_c19-pad1_ net-_q45-pad1_ net-_i24-pad2_ Q2N2222
q54 net-_q47-pad2_ net-_d14-pad2_ net-_q54-pad3_ Q2N2222
q57 net-_i24-pad2_ net-_q54-pad3_ net-_i19-pad2_ Q2N2222
i19 net-_c11-pad2_ net-_i19-pad2_  dc 10u
i24 net-_c11-pad2_ net-_i24-pad2_  dc 10u
q64 net-_q64-pad1_ net-_q64-pad2_ net-_i20-pad1_ Q2N2907A
q70 net-_c22-pad1_ net-_q64-pad2_ net-_i23-pad1_ Q2N2907A
c19  net-_c19-pad1_ net-_c19-pad2_ 10n
c20  net-_c20-pad1_ net-_c20-pad2_ 10n
q65 net-_q64-pad1_ net-_q64-pad1_ net-_c20-pad2_ Q2N2222
q71 net-_c22-pad1_ net-_q64-pad1_ net-_c19-pad2_ Q2N2222
q66 net-_c20-pad2_ net-_c20-pad2_ net-_c11-pad2_ Q2N2222
q72 net-_c19-pad2_ net-_c20-pad2_ net-_c11-pad2_ Q2N2222
r24  net-_q45-pad1_ net-_c22-pad2_ 10k
c22  net-_c22-pad1_ net-_c22-pad2_ 10n
q74 net-_c1-pad1_ ? net-_i27-pad2_ Q2N2222
q76 net-_c11-pad2_ ? net-_i28-pad1_ Q2N2907A
i28 net-_i28-pad1_ net-_c1-pad1_  dc 10u
c24  net-_c22-pad1_ net-_c11-pad2_ 10n
i27 net-_c11-pad2_ net-_i27-pad2_  dc 10u
q79 net-_c1-pad1_ net-_i28-pad1_ net-_q79-pad3_ Q2N2222
q80 net-_c11-pad2_ net-_i27-pad2_ net-_q79-pad3_ Q2N2907A
* Control Statements

.ends OP470