* Subcircuit OP497_Subcircuit
.subckt OP497_Subcircuit net-_r1-pad1_ net-_r2-pad1_ net-_c1-pad1_ net-_c3-pad2_ net-_q22-pad3_ 
* c:\fossee\esim\library\subcircuitlibrary\op497_subcircuit\op497_subcircuit.cir
.include NPN.lib
.include PNP.lib
.include D.lib
r1  net-_r1-pad1_ net-_q12-pad1_ 2.5k
q1 net-_q1-pad1_ ? net-_q1-pad3_ Q2N2222
q2 net-_q1-pad1_ net-_q1-pad3_ net-_q12-pad1_ Q2N2222
q3 net-_q3-pad1_ net-_q12-pad1_ net-_c3-pad2_ Q2N2222
r2  net-_r2-pad1_ net-_q1-pad3_ 2.5k
r3  net-_q1-pad1_ net-_q7-pad3_ 10k
q6 net-_q5-pad3_ net-_q1-pad3_ net-_c3-pad2_ Q2N2222
q4 net-_c1-pad2_ net-_c1-pad1_ net-_q3-pad1_ Q2N2222
q5 net-_c2-pad1_ net-_c1-pad1_ net-_q5-pad3_ Q2N2222
r4  net-_c1-pad1_ net-_c1-pad2_ 10k
r5  net-_c1-pad1_ net-_c2-pad1_ 10k
q8 net-_c1-pad1_ net-_c1-pad1_ net-_q7-pad3_ Q2N2222
q7 net-_c3-pad2_ net-_c3-pad2_ net-_q7-pad3_ Q2N2907A
q9 net-_q10-pad3_ net-_q14-pad1_ net-_c3-pad2_ Q2N2222
q10 net-_q1-pad3_ net-_c3-pad2_ net-_q10-pad3_ Q2N2907A
q12 net-_q12-pad1_ net-_c3-pad2_ net-_q10-pad3_ Q2N2907A
q14 net-_q14-pad1_ net-_c3-pad2_ net-_q10-pad3_ Q2N2907A
q11 net-_q10-pad3_ net-_c3-pad2_ net-_c1-pad1_ Q2N2907A
q13 net-_c3-pad2_ net-_c3-pad2_ net-_c1-pad1_ Q2N2907A
c1  net-_c1-pad1_ net-_c1-pad2_ 10pf
q15 net-_q15-pad1_ net-_c1-pad2_ net-_c1-pad1_ Q2N2907A
q18 net-_c3-pad1_ net-_c2-pad1_ net-_c1-pad1_ Q2N2907A
c2  net-_c2-pad1_ net-_c2-pad2_ 10pf
r6  net-_c2-pad2_ net-_c3-pad1_ 10k
d1 net-_c1-pad1_ net-_d1-pad2_ 1N4148
d2 net-_d1-pad2_ net-_c3-pad2_ 1N4148
q16 net-_q15-pad1_ net-_q15-pad1_ net-_c3-pad2_ Q2N2222
q17 net-_c3-pad1_ net-_q15-pad1_ net-_c3-pad2_ Q2N2222
c3  net-_c3-pad1_ net-_c3-pad2_ 10uf
q19 net-_q19-pad1_ net-_c3-pad1_ net-_c3-pad2_ Q2N2222
q21 net-_c3-pad2_ net-_c3-pad2_ net-_d3-pad2_ Q2N2907A
q23 net-_c3-pad2_ net-_c3-pad2_ net-_q22-pad3_ Q2N2907A
d3 net-_c1-pad1_ net-_d3-pad2_ 1N4148
q20 net-_c1-pad1_ net-_c1-pad1_ net-_q19-pad1_ Q2N2222
q22 net-_c1-pad1_ net-_c1-pad1_ net-_q22-pad3_ Q2N2222
* Control Statements

.ends OP497_Subcircuit